US08735414B2
A mixture of N-tert-butyl-6-(6-ethyl-5-fluoro-3-(methylsulfonyl)-1H-indol-2-yl)pyridine-3-sulfonamide (115 mg, 0.25 mmol), 2-bromopyrimidine (88 mg, 0.55 mmol), CuI (28 mg, 0.15 mmol), K2CO3 (160 mg, 1.15 mmol), and DMF (0.5 mL) was heated at 110° C. for 15 hours. The reaction mixture was diluted in water and extracted into ethyl acetate. The organic layer was washed with water and then with brine. The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure. Purification by silica gel chromatography (40% ethyl acetate in hexanes) yielded N-tert-butyl-6-(6-ethyl-5-fluoro-3-(methylsulfonyl)-1-(pyrimidin-2-yl)-1H-indol-2-yl)pyridine-3-sulfonamide (121 mg, 91%) as a white solid. Melting point: 244-248° C.; MS m/z 532.2 M+H+; 1H NMR (DMSO-d6, 500 MHz): δ 8.82 (d, 1H, J=2 Hz), 8.73 (d, 2H, 5.0 Hz), 8.23 (dd, 1H, J=8.0 Hz, 2 Hz), 8.05 (d, 1H, J=6.5 Hz), 7.96 (d, 1H, J=8 Hz), 7.87 (s, 1H), 7.76 (d, 1H, 10.5 Hz), 7.51 (t, 1H, J=5 Hz), 3.38 (s, 3H), 2.78 (q, 2H, J=7.5 Hz), 1.23 (t, 3H, 3.75 Hz), 1.13 (s, 9H).

reactant | N-tert-butyl-6-(6-ethyl-5-fluoro-3-(methylsulfonyl)-1H-indol-2-yl)pyridine-3-sulfonamide | 0.25 mmol, 115 mg | C(C)(C)(C)NS(=O)(=O)C=1C=NC(=CC1)C=1NC2=CC(=C(C=C2C1S(=O)(=O)C)F)CC | C20H24FN3O4S2
reactant | 2-bromopyrimidine | 0.55 mmol, 88 mg | BrC1=NC=CC=N1 | C4H3BrN2
reactant | K2CO3 | 1.15 mmol, 160 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | CuI | 0.15 mmol, 28 mg | [Cu]I
product | N-tert-butyl-6-(6-ethyl-5-fluoro-3-(methylsulfonyl)-1-(pyrimidin-2-yl)-1H-indol-2-yl)pyridine-3-sulfonamide | 121 mg, 91% | C(C)(C)(C)NS(=O)(=O)C=1C=NC(=CC1)C=1N(C2=CC(=C(C=C2C1S(=O)(=O)C)F)CC)C1=NC=CC=N1 | C24H26FN5O4S2
